US07157491B2
4-(4-Methoxyphenyl)-benzofuran-7-carbaldehyde
To a 250 ml round bottom flask was added 4-(4-methoxyphenyl)-7-methylbenzofuran (600 mg, 2.52 mmol), CCl4 (70 ml), NBS (490 mg, 2.77 mmol), and a catalytic amount of AIBN (25 mg). The reaction was brought to reflux for 2 h after which the reaction was allowed to cool, the solids were filtered off, and the solution concentrated. CH3CN (30 ml), K2HPO4 (440 mg, 2.53 mmol), and potassium benzeneselenite (630 mg, 2.77 mmol) were added and the reaction was brought to reflux for 2 h after. The reaction was cooled, passed through a silica plug (washed with 30% EtOAc/hex.), and concentrated to 810 mg of an orange solid. Further purification by chromatography (100% CH2Cl2) afforded 500 mg (78%) of product as a tan colored solid: mp 104–105° C.; 1H NMR (500 MHz, DMSO-d6): δ 3.85 (3H, s), 7.14 (2H, d, J=8.8 Hz), 7.20 (1H, d, J=2.2 Hz), 7.56 (1H, d, J=8.0 Hz), 7.69 (2H, d, J=8.8 Hz), 7.91 (1H, d, J=7.7 Hz), 8.26 (1H, d, J=2.2 Hz), 10.36 (1H, s); HRMS (ESI+) m/z 253.08622 ([M+H]+).

reactant | 4-(4-methoxyphenyl)-7-methylbenzofuran | 2.52 mmol, 600 mg | COC1=CC=C(C=C1)C1=CC=C(C2=C1C=CO2)C | C16H14O2
reactant | CCl4 | 70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | NBS | 2.77 mmol, 490 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | K2HPO4 | 2.53 mmol, 440 mg | OP(=O)([O-])[O-].[K+].[K+]
catalyst | AIBN | 25 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CH3CN | 30 ml | CC#N | C2H3N
product | 4-(4-Methoxyphenyl)-benzofuran-7-carbaldehyde | 500 mg, 78% | COC1=CC=C(C=C1)C1=CC=C(C2=C1C=CO2)C=O | C16H12O3
